* File: NOR3_3D.pex.netlist.pex
* Created: Sat Dec  6 14:54:34 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR3_3D_IN1 2 6 9 10 12 18 20
c20 20 0 0.0119627f
c21 18 0 0.128847f
c22 10 0 0.00190742f
c23 9 0 0.0157233f
c24 6 0 0.0452129f
c25 2 0 0.016696f
r26 20 26 7.84571
r27 18 20 89.3538
r28 17 18 17.7379
r29 14 16 89.3538
r30 12 14 0.149286
r31 10 17 0.212317
r32 10 14 0.135714
r33 9 16 7.28
r34 6 26 69.186
r35 1 9 4.58872
r36 1 2 37.05
.ends

.subckt PM_NOR3_3D_VDD! 6 9 11 12
c10 9 0 0.0400676f
c11 6 0 0.0383502f
c12 5 0 0.0105886f
r13 9 12 0.0429091
r14 9 11 0.506667
r15 5 12 0.203253
r16 5 6 2.51071
.ends

.subckt PM_NOR3_3D_IN2 2 6 11 14 18 20
c28 20 0 0.0111314f
c29 18 0 0.0018325f
c30 14 0 0.0108433f
c31 11 0 0.0784906f
c32 6 0 0.0301956f
c33 2 0 0.0129581f
r34 20 25 8.32
r35 18 20 89.3538
r36 16 18 0.19
r37 14 24 7.66469
r38 12 14 89.3538
r39 11 12 18.3423
r40 9 16 0.0362674
r41 9 11 0.774615
r42 6 24 68.796
r43 1 25 1.98872
r44 1 2 37.05
.ends

.subckt PM_NOR3_3D_OUT 5 8 9 11 12 14 15 17 21 25
c36 24 0 9.47048e-19
c37 21 0 0.0296213f
c38 20 0 0.0034271f
c39 17 0 0.00641102f
c40 15 0 0.00320161f
c41 14 0 0.00753167f
c42 12 0 0.00313692f
c43 11 0 0.0856713f
c44 9 0 0.00280356f
c45 8 0 0.00183737f
c46 5 0 0.00809488f
r47 20 25 0.110287
r48 20 21 1.39786
r49 16 17 0.519333
r50 14 25 0.102409
r51 14 15 1.75385
r52 13 24 0.171069
r53 12 16 0.213729
r54 12 13 0.613846
r55 11 15 0.212696
r56 10 24 0.0335492
r57 10 11 19.2307
r58 8 24 0.171069
r59 8 9 0.686923
r60 4 9 0.213729
r61 4 5 0.532
.ends

.subckt PM_NOR3_3D_IN3 2 6 9 10 12 15 21 23 25
c23 25 0 0.0165712f
c24 23 0 0.0083418f
c25 21 0 0.00440349f
c26 15 0 0.010784f
c27 12 0 0.126255f
c28 10 0 0.00192605f
c29 9 0 0.00345171f
c30 6 0 0.0439228f
c31 2 0 0.0112083f
r32 21 23 89.3538
r33 19 21 0.149286
r34 17 19 0.0362674
r35 17 25 2.35308
r36 15 30 7.69105
r37 13 15 89.3538
r38 12 13 13.6088
r39 10 25 0.204477
r40 10 12 0.415625
r41 9 23 6.24
r42 6 30 68.796
r43 1 9 4.58872
r44 1 2 17.94
.ends

.subckt PM_NOR3_3D_GND! 6 7 12 14 17 20
c19 23 0 0.00276068f
c20 20 0 0.00871676f
c21 17 0 0.0248743f
c22 14 0 0.00688703f
c23 6 0 0.0168766f
r24 19 20 0.642069
r25 18 23 0.0861081
r26 17 19 0.242989
r27 17 18 0.826667
r28 13 23 0.124293
r29 13 14 0.637857
r30 7 12 0.346667
r31 6 23 0.0861081
r32 6 12 0.0133333
.ends

