* File: NOR4_3D.pex.netlist.pex
* Created: Sat Dec  6 14:58:11 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR4_3D_IN1 2 6 9 10 12 18 20
c20 20 0 0.0119675f
c21 18 0 0.130112f
c22 10 0 0.00190742f
c23 9 0 0.0157233f
c24 6 0 0.0583522f
c25 2 0 0.016696f
r26 20 26 7.84571
r27 18 20 89.3538
r28 17 18 17.9007
r29 14 16 89.3538
r30 12 14 0.149286
r31 10 17 0.212317
r32 10 14 0.135714
r33 9 16 7.28
r34 6 26 88.14
r35 1 9 4.58872
r36 1 2 37.05
.ends

.subckt PM_NOR4_3D_VDD! 6 9 11 12
c11 9 0 0.0521509f
c12 6 0 0.0515645f
c13 5 0 0.0106938f
r14 9 12 0.0429091
r15 9 11 0.506667
r16 5 12 0.203253
r17 5 6 2.755
.ends

.subckt PM_NOR4_3D_IN2 1 2 6 9 14 17
c24 17 0 0.0108451f
c25 9 0 0.0785056f
c26 6 0 0.0389566f
c27 2 0 0.0120415f
c28 1 0 0.00989199f
r29 17 22 7.66469
r30 15 17 89.3538
r31 14 15 18.5177
r32 9 11 89.3538
r33 9 14 0.789231
r34 6 22 87.75
r35 1 11 7.44571
r36 1 2 37.05
.ends

.subckt PM_NOR4_3D_IN3 1 2 6 9 14 17
c23 17 0 0.00991296f
c24 9 0 0.0818054f
c25 6 0 0.0389566f
c26 2 0 0.0121047f
c27 1 0 0.00784579f
r28 17 22 7.69105
r29 15 17 89.3538
r30 14 15 16.9246
r31 9 11 89.3538
r32 9 14 2.38231
r33 6 22 87.75
r34 1 11 7.37878
r35 1 2 37.44
.ends

.subckt PM_NOR4_3D_GND! 6 8 10 13 15 19 25
c21 25 0 0.0176839f
c22 24 0 0.00276068f
c23 19 0 0.006998f
c24 13 0 0.0154084f
c25 10 0 0.00688703f
c26 6 0 0.0169342f
r27 18 25 0.120134
r28 18 19 0.615862
r29 14 24 0.0861081
r30 14 15 0.4
r31 13 25 0.0889215
r32 13 15 0.426667
r33 9 24 0.124293
r34 9 10 0.637857
r35 6 24 0.0861081
r36 6 8 0.0133333
.ends

.subckt PM_NOR4_3D_IN4 2 6 10 12 16 19
c17 19 0 0.00709794f
c18 16 0 0.00804067f
c19 12 0 0.128686f
c20 10 0 0.00294562f
c21 6 0 0.0570621f
c22 2 0 0.0168314f
r23 17 19 89.3538
r24 16 24 7.8887
r25 14 16 89.3538
r26 14 17 19.3069
r27 12 14 0.0730769
r28 9 19 3.9
r29 9 10 4.7687
r30 6 10 87.75
r31 2 24 37.44
.ends

.subckt PM_NOR4_3D_OUT 6 9 10 12 13 15 16 18 21 24 28 33
c48 32 0 0.00163358f
c49 31 0 9.47048e-19
c50 28 0 0.0442929f
c51 27 0 0.00400164f
c52 24 0 0.007938f
c53 21 0 0.010466f
c54 18 0 0.00569034f
c55 16 0 0.00339141f
c56 15 0 0.0139231f
c57 13 0 0.00165578f
c58 12 0 0.0863368f
c59 10 0 0.00288698f
c60 9 0 0.00183737f
c61 6 0 0.00809488f
r62 27 33 0.114325
r63 27 28 2.67462
r64 23 24 0.577037
r65 22 32 0.180951
r66 21 23 0.212415
r67 21 22 1.82692
r68 17 32 0.0259362
r69 17 18 0.519333
r70 15 33 0.0979924
r71 15 16 2.87923
r72 14 31 0.171069
r73 13 32 0.180951
r74 13 14 0.613846
r75 12 16 0.212696
r76 11 31 0.0335492
r77 11 12 19.3936
r78 9 31 0.171069
r79 9 10 0.686923
r80 5 10 0.213729
r81 5 6 0.532
.ends

