* File: OAI21.pex.netlist.pex
* Created: Fri Dec  5 23:41:44 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OAI21_IN1 2 6 9 11 14
c14 11 0 0.00807285f
c15 9 0 0.00271151f
c16 6 0 0.035615f
c17 2 0 0.0178472f
r18 11 18 5.04571
r19 11 17 6.64571
r20 9 11 89.3538
r21 9 14 0.0678571
r22 6 18 61.23
r23 2 17 31.59
.ends

.subckt PM_OAI21_IN2 2 6 9 11 14
c21 11 0 0.00618761f
c22 9 0 0.00361371f
c23 6 0 0.0301418f
c24 2 0 0.0125371f
r25 11 18 4.75275
r26 11 17 7.27627
r27 9 11 89.3538
r28 9 14 0.0743478
r29 6 18 63.18
r30 2 17 29.25
.ends

.subckt PM_OAI21_GND! 5 6 11 14 16
c16 17 0 0.00296013f
c17 14 0 0.0264412f
c18 11 0 0.00784978f
c19 5 0 0.0171792f
r20 14 17 0.0917175
r21 14 16 0.04
r22 10 17 0.116121
r23 10 11 0.620667
r24 5 17 0.0917175
r25 5 6 0.36
.ends

.subckt PM_OAI21_NET33 2 4 7 8
c21 8 0 0.00303859f
c22 7 0 0.00621753f
c23 4 0 0.00861293f
c24 2 0 0.00539636f
r25 7 9 0.212317
r26 7 8 1.75385
r27 3 8 0.213729
r28 3 4 0.557333
r29 2 9 0.686923
.ends

.subckt PM_OAI21_IN3 2 6 9 15 17 20
c23 17 0 0.0142411f
c24 15 0 0.00338166f
c25 9 0 0.00790958f
c26 6 0 0.0177152f
c27 2 0 0.0145258f
r28 17 22 15.6
r29 15 17 89.3538
r30 15 20 0.0900741
r31 9 11 15.6
r32 9 17 13
r33 5 22 0.458085
r34 5 6 27.3
r35 1 11 0.458085
r36 1 2 27.3
.ends

.subckt PM_OAI21_OUT 3 4 8 9 10 13 16 18
c24 16 0 0.00385702f
c25 10 0 0.00379517f
c26 9 0 0.00756927f
c27 8 0 0.0108352f
c28 4 0 0.00592368f
c29 3 0 0.00234534f
r30 15 16 0.599231
r31 13 15 0.0146154
r32 10 16 0.0223169
r33 9 18 0.424312
r34 9 10 0.891538
r35 7 15 0.00808061
r36 7 8 1.26214
r37 3 8 0.22463
r38 3 4 0.2185
.ends

.subckt PM_OAI21_VDD! 6 7 10 13 15 18
c17 15 0 0.0227067f
c18 10 0 0.0364961f
c19 7 0 0.0244409f
c20 6 0 0.0103514f
r21 14 15 2.28
r22 11 18 0.0429091
r23 11 13 0.66
r24 10 14 0.246163
r25 10 13 0.66
r26 6 18 0.203253
r27 6 7 1.22143
.ends

