* File: OAI22.pex.netlist.pex
* Created: Fri Dec  5 23:42:26 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OAI22_IN1 2 6 8 10 12 17 21 25 28 30 37
c41 37 0 0.00705327f
c42 30 0 0.0027258f
c43 25 0 0.00443403f
c44 21 0 0.00615778f
c45 17 0 0.00686192f
c46 12 0 0.0209489f
c47 10 0 0.00332566f
c48 8 0 0.00344499f
c49 6 0 0.00414498f
c50 2 0 0.0299707f
r51 32 37 2.12727
r52 32 34 2.36364
r53 30 32 89.3538
r54 28 30 0.076
r55 23 25 6.24
r56 19 21 6.63
r57 15 17 9.36
r58 11 25 0.458085
r59 11 12 70.2
r60 10 23 0.458085
r61 9 21 0.458085
r62 9 10 9.36
r63 8 19 0.458085
r64 7 17 0.458085
r65 7 8 9.36
r66 6 15 0.458085
r67 5 37 2.34442
r68 5 6 12.09
r69 2 34 47.19
.ends

.subckt PM_OAI22_IN2 2 6 7 8 10 18 23
c35 23 0 0.0061694f
c36 18 0 0.00252745f
c37 10 0 0.0307163f
c38 8 0 0.00277826f
c39 7 0 0.00954521f
c40 6 0 0.00385963f
c41 2 0 0.0206218f
r42 15 23 1.18182
r43 15 20 3.30909
r44 13 15 89.3538
r45 13 18 0.0876923
r46 9 10 106.47
r47 7 9 4.35808
r48 7 8 14.43
r49 6 8 4.35808
r50 5 23 2.34442
r51 5 6 11.31
r52 2 20 46.02
.ends

.subckt PM_OAI22_GND! 5 6 11 13 18
c19 18 0 0.029837f
c20 13 0 0.00928441f
c21 5 0 0.0253169f
r22 12 18 0.124293
r23 12 13 0.855
r24 6 11 0.446667
r25 5 18 0.0861081
r26 5 11 0.2
.ends

.subckt PM_OAI22_NET26 2 3 4 6 7 8
c17 8 0 0.00629224f
c18 7 0 0.00151316f
c19 6 0 0.00510113f
c20 3 0 0.00626509f
r21 6 8 0.212696
r22 6 7 1.78308
r23 3 7 0.212696
r24 3 4 0.366429
r25 2 8 0.366429
.ends

.subckt PM_OAI22_IN3 2 6 10 13 17 21 23
c33 23 0 0.00807256f
c34 21 0 0.00549059f
c35 17 0 0.00153782f
c36 13 0 0.00704818f
c37 10 0 0.00521438f
c38 6 0 0.0353521f
c39 2 0 0.0211246f
r40 23 30 5.18354
r41 21 23 89.3538
r42 19 21 0.19
r43 15 17 0.102308
r44 13 25 4.3875
r45 11 13 89.3538
r46 11 15 0.146154
r47 10 19 0.142815
r48 9 15 0.00808061
r49 9 10 0.882143
r50 5 30 2.18247
r51 5 6 85.02
r52 1 25 2.22942
r53 1 2 46.02
.ends

.subckt PM_OAI22_IN4 2 6 9 12 13 15 21 24 25
c44 25 0 0.00790488f
c45 21 0 0.0060213f
c46 15 0 0.00457071f
c47 13 0 0.00468374f
c48 12 0 0.0141317f
c49 9 0 0.0132619f
c50 6 0 0.0304038f
c51 2 0 0.0290403f
r52 24 25 0.133704
r53 21 31 5.42878
r54 19 21 89.3538
r55 19 24 0.147778
r56 15 29 4.7687
r57 13 15 89.3538
r58 13 17 0.13641
r59 11 25 0.142815
r60 11 12 1.76429
r61 10 17 0.0968863
r62 9 12 0.212696
r63 9 10 3.50769
r64 6 31 46.02
r65 2 29 64.74
.ends

.subckt PM_OAI22_OUT 7 9 12 13 14 17 21 24
c42 24 0 0.00839581f
c43 21 0 0.0152503f
c44 17 0 0.0162549f
c45 14 0 0.0119186f
c46 13 0 0.00329539f
c47 12 0 0.0103269f
c48 9 0 0.0114805f
c49 7 0 0.0263693f
r50 24 26 0.41735
r51 20 21 1.08571
r52 16 17 0.686923
r53 15 24 0.130902
r54 14 20 0.212696
r55 14 15 3.99
r56 12 16 0.212317
r57 12 13 2.09
r58 9 26 0.665
r59 5 24 0.18039
r60 5 7 3.08385
r61 4 13 0.212317
r62 4 7 0.555385
.ends

.subckt PM_OAI22_VDD! 7 10 11 12 16 18
c17 18 0 0.0208812f
c18 11 0 0.0106769f
c19 10 0 0.0463832f
c20 7 0 0.0206105f
r21 17 18 1.83667
r22 12 16 0.706667
r23 11 12 0.44
r24 10 17 0.240061
r25 10 16 0.646667
r26 6 11 0.240061
r27 6 7 1.83667
.ends

