* File: OAI21_3D.pex.netlist.pex
* Created: Sat Dec  6 15:02:03 2014
* Program "Calibre xRC"
* Version "v2011.2_34.26"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OAI21_3D_IN1 2 6 9 10 16 18 21
c21 18 0 0.0134835f
c22 16 0 0.13604f
c23 10 0 0.00240662f
c24 9 0 0.015453f
c25 6 0 0.030719f
c26 2 0 0.020318f
r27 18 25 6.64571
r28 16 18 89.3538
r29 16 21 0.0678571
r30 15 21 18.1857
r31 11 13 89.3538
r32 10 15 0.212317
r33 10 11 0.230714
r34 9 13 9.1
r35 5 9 4.58872
r36 5 6 46.02
r37 2 25 39
.ends

.subckt PM_OAI21_3D_GND! 5 6 11 14 16
c15 17 0 0.00296013f
c16 14 0 0.0266105f
c17 11 0 0.00784978f
c18 5 0 0.0174252f
r19 14 17 0.0917175
r20 14 16 0.04
r21 10 17 0.116121
r22 10 11 0.620667
r23 5 17 0.0917175
r24 5 6 0.36
.ends

.subckt PM_OAI21_3D_IN2 2 6 10 12 15 17 18 23 26
c29 26 0 0.00619501f
c30 23 0 0.00115805f
c31 18 0 0.00447982f
c32 17 0 0.0845524f
c33 12 0 0.00657107f
c34 10 0 0.00226672f
c35 6 0 0.0253004f
c36 2 0 0.0125371f
r37 20 26 3.38
r38 18 20 89.3538
r39 17 18 0.29113
r40 17 23 18.0229
r41 12 29 7.27627
r42 10 12 89.3538
r43 10 15 0.100588
r44 9 23 0.202958
r45 9 15 0.0111765
r46 5 26 1.98872
r47 5 6 46.02
r48 2 29 29.25
.ends

.subckt PM_OAI21_3D_NET17 2 4 7 8
c18 8 0 0.00371854f
c19 7 0 0.00770285f
c20 4 0 0.00861293f
c21 2 0 0.00539636f
r22 7 9 0.212317
r23 7 8 1.75385
r24 3 8 0.213729
r25 3 4 0.557333
r26 2 9 0.686923
.ends

.subckt PM_OAI21_3D_OUT 3 4 8 9 10 13 16 18
c28 16 0 0.0038764f
c29 10 0 0.00379517f
c30 9 0 0.00756927f
c31 8 0 0.0921959f
c32 4 0 0.00597779f
c33 3 0 0.00269415f
r34 15 16 0.599231
r35 13 15 0.0146154
r36 10 16 0.0223169
r37 9 18 0.424312
r38 9 10 0.891538
r39 7 15 0.00808061
r40 7 8 19.4207
r41 3 8 0.22463
r42 3 4 0.2185
.ends

.subckt PM_OAI21_3D_VDD! 6 7 10 13 15 18
c16 15 0 0.0227145f
c17 10 0 0.0375271f
c18 7 0 0.0239639f
c19 6 0 0.0101107f
r20 14 15 2.28
r21 11 18 0.0429091
r22 11 13 0.66
r23 10 14 0.246163
r24 10 13 0.66
r25 6 18 0.203253
r26 6 7 1.22143
.ends

.subckt PM_OAI21_3D_IN3 2 6 12 14 17 18 20 26
c25 26 0 0.010985f
c26 20 0 0.00919246f
c27 18 0 0.135118f
c28 17 0 0.0046696f
c29 14 0 0.00362212f
c30 12 0 0.00860455f
c31 6 0 0.0177151f
c32 2 0 0.0145258f
r33 24 26 89.3538
r34 22 24 0.0146154
r35 18 20 89.3538
r36 17 22 0.00808061
r37 17 18 18.05
r38 17 24 0.102308
r39 14 20 7.29677
r40 12 26 13
r41 9 12 15.6
r42 5 14 4.62708
r43 5 6 27.3
r44 1 9 0.458085
r45 1 2 27.3
.ends

